US03941788
22 g. (0.1 moles) of 2-aminomethyl-benzimidazole dihydrochloride are suspended in 250 ml. of alcohol, and an alcohol solution of 12 g. (0.3 moles) of sodium hydroxide is added slowly to the cooled suspnesion. Thereafter 9.2 g. (0.1 moles) of epichlorohydrine are added to the mixture, and the reaction mixture is boiled for 3 hours under reflux. The mixture is cooled, the sodium chloride is removed by filtration, and the filtrate is evaporated to dryness under reduced pressure. The oily residue is dissolved in a mixture of acetone and alcohol, and the pH of the solution is adjusted to 3 with hydrochloric acid. The separated white, crystalline substance is filtered off, washed with a small amount of the above solvent, and dried. This way 20.9 g. (76%) of 2,3,4,5-tetrahydro-4-hydroxy-1H-(1,4)-diazepino[1,2-a]benzimidazole dihydrochloride are obtained; m.p.: 248°-250°C (heating rate: 4°C/min.).

reactant | 2-aminomethyl-benzimidazole dihydrochloride | 0.1 moles | Cl.Cl.NCC=1NC2=C(N1)C=CC=C2
reactant | sodium hydroxide | 0.3 moles | [OH-].[Na+]
reactant | epichlorohydrine | 0.1 moles | C(Cl)C1CO1 | C3H5ClO
product | 2,3,4,5-tetrahydro-4-hydroxy-1H-(1,4)-diazepino[1,2-a]benzimidazole dihydrochloride | 76% | Cl.Cl.OC1CNCC2=NC3=C(N2C1)C=CC=C3 | InChI=1S/C11H13N3O.2ClH/c15-8-5-12-6-11-13-9-3-1-2-4-10(9)14(11)7-8;;/h1-4,8,12,15H,5-7H2;2*1H
